US05114939
8-Fluoro-N-[2-(4-phenyl-2-thiazolyl)ethyl]-4-quinolinamine
To 1.0 g of 4-chloro-8-fluoroquinoline was added 2.6 g of 2-β-aminoethyl-4-phenylthiazole monohydrochloride. The mixture was stirred under nitrogen and heated to 170°-175° C. for one hour. The mixture was then cooled and 250 mL of a 50:50 mixture of ammonium hydroxide and water was added. The product was extracted into CH2Cl2, which was then concentrated to dryness. Recrystallizing from pentane/CH2Cl2 gave 0.410 g of the title product. Yield 21.6%. M.P. 134°-135° C.

reactant | 4-chloro-8-fluoroquinoline | 1.0 g | ClC1=CC=NC2=C(C=CC=C12)F | C9H5ClFN
reactant | 2-β-aminoethyl-4-phenylthiazole monohydrochloride | 2.6 g | Cl.NCCC=1SC=C(N1)C1=CC=CC=C1
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 8-Fluoro-N-[2-(4-phenyl-2-thiazolyl)ethyl]-4-quinolinamine | 0.410 g, Yield 21.6% | FC=1C=CC=C2C(=CC=NC12)NCCC=1SC=C(N1)C1=CC=CC=C1 | C20H16FN3S
